US05274143
Process for the Preparation of Phenyl(R)-3-t-Butyl-Dimethylsilyloxytetradecanoate
A solution of 2.71 g (R)-3-t-butyldimethylsilyloxytetradecanoic acid (0.0076 moles) in 20 mL dichloromethane was cooled with stirring to 5° C. 0.72 g Phenol (0.0076 moles), then 1.72 g N,N'-dicyclohexylcarbodiimide (0.0084 moles) were added and the resultant mixture was allowed to warm to room temperature and stirred there for about 16 hours. The mixture was filtered through a coarse sintered glass funnel, and the collected solids were washed with about 5 mL dichloromethane. The combined filtrate and washes were concentrated to dryness on a rotary evaporator (about 100 mm Hg, 30° C.). The residue was chromatographed on a 2" column slurry packed with silica gel (about 150 g) in dichloro- methane. The product was eluted with dichloromethane. The chromatography was monitored by TLC (silica gel, dichloromethane, phosphomolybdic acid visualization, product Rf ca 0.95). Fractions containing only product were pooled and concentrated to an oil on a rotary evaporator (ca. 125 mm Hg, 30° C.). The oil was blown dry by passing a stream of nitrogen over it for 1 hour. A clear oil (2.71 g, 82% yield) was obtained.

reactant | (R)-3-t-butyldimethylsilyloxytetradecanoic acid | 0.0076 moles, 2.71 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)O)CCCCCCCCCCC | C20H42O3Si
reactant | Phenol | 0.0076 moles, 0.72 g | C1(=CC=CC=C1)O | C6H6O
reactant | N,N'-dicyclohexylcarbodiimide | 0.0084 moles, 1.72 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Phenyl(R)-3-t-Butyl-Dimethylsilyloxytetradecanoate | 2.71 g, 82% yield | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)OC1=CC=CC=C1)CCCCCCCCCCC | C26H46O3Si
